US07763731B2
3-nitro-4-(phenylthio)benzonitrile
A solution of sodium thiophenolate (16.29 g, 123.3 mmol) in 150 mL of DMF was heated at 100° C. with 4-chloro-3-nitrobenzonitrile (15.0 g, 82.2 mmol) with stirring for 24 hours. Cooled to room temperature and diluted with EtOAc. Washed with water and dried the organic layer over MgSO4. Filtered and concentrated under vacuum giving the title compound, which was purified by silica gel column chromatography eluting with 5% EtOAc/hexane giving a yellow solid (4.0 g, 19%).

reactant | sodium thiophenolate | 123.3 mmol, 16.29 g | C1(=CC=CC=C1)[S-].[Na+]
reactant | 4-chloro-3-nitrobenzonitrile | 82.2 mmol, 15.0 g | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-nitro-4-(phenylthio)benzonitrile | [N+](=O)([O-])C=1C=C(C#N)C=CC1SC1=CC=CC=C1 | C13H8N2O2S
